US07585886B2
A mixture of 243 mg of methyl 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)-3-methoxybenzoate and 6.0 ml of a THF-methanol (2:1) mixed solvent was mixed with 1.0 ml of 1 M sodium hydroxide aqueous solution at room temperature and stirred overnight at room temperature. The reaction solution was concentrated under a reduced pressure, and the residue was mixed with 1 M hydrochloric acid, extracted with chloroform and dried with anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 227 mg of 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)-3-methoxybenzoic acid as a pale brown oily substance.

reactant | methyl 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)-3-methoxybenzoate | 243 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)NC1=C(C=C(C(=O)OC)C=C1)OC | C38H43N3O6
reactant | sodium hydroxide | 1 M, 1.0 ml | [OH-].[Na+]
solvent | THF methanol | 6.0 ml | C1CCOC1.CO
product | 4-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)-3-methoxybenzoic acid | 227 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC | C37H41N3O6
